US05354772
3-(4'-Fluorophenyl)-1-methylindole-2-carboxaldehyde
78.5 ml. (0.84 mole) of phosphorus oxychloride is added dropwise over a 20 min. period to 213 ml. of dimethylformamide stirred at 0° C. under nitrogen, the temperature of the reaction mixture not being allowed to exceed 10° C. The reaction mixture is heated to 80° C., a solution of 163.5 g. (0.727 mole) of 3-(4'-fluorophenyl)-1-methylindole in 270 ml. of dimethylformamide is added at a rate such that the temperature of the reaction mixture is maintained at 81°-83° C., the reaction mixture is maintained at 80°-81° C. for 5 hours and cooled to 10° C., and 1 l. of 15% sodium hydroxide solution is added dropwise at a rate such that the temperature of the reaction mixture is maintained at 35°-40° C., the reaction mixture being stirred under nitrogen throughout. The reaction mixture is cooled to 25° C., and the solids are collected by filtration, washed three times with 500 ml. portions of water and dissolved in 500 ml. of methylene chloride. The methylene chloride solution is filtered through 500 ml. of silica gel (70-230 mesh A.S.T.M.) and the silica gel is carefully washed with 2 l. of methylene chloride. The methylene chloride solutions are combined and concentrated to a volume of 300 ml. at reduced pressure, 300 ml. of absolute ethanol is added, and the reaction mixture is distilled until the internal temperature reaches 78° C. The reaction mixture is cooled to 0° C. and the precipitated bright yellow product is collected by filtration and vacuum dried at room temperature (153.9 g. (84%)), m.p. 80.5°-81.5° C. A slightly less pure second crop may be obtained from the mother liquor.

reactant | phosphorus oxychloride | 0.84 mole | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(4'-fluorophenyl)-1-methylindole | 0.727 mole | FC1=CC=C(C=C1)C1=CN(C2=CC=CC=C12)C | C15H12FN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(4'-Fluorophenyl)-1-methylindole-2-carboxaldehyde | FC1=CC=C(C=C1)C1=C(N(C2=CC=CC=C12)C)C=O | C16H12FNO
